Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
iodine / Statins-Hmg-Coa Reductase Inhibitors
 
Attending: ___.
 
Chief Complaint:
Intraventricular hemorrhage
 
Major Surgical or Invasive Procedure:
___ - Right EVD placement

 
History of Present Illness:
___ is a ___ yo male who
presents as intubated transfer from OSH with concern for SAH.
Patient has a history of prior TBI from ___ in ___, CAD with
stents, HTN, HLD, IDDM. He was in a hyperbaric chamber for
peripheral wound healing and he had acute onset of severe
headache, nausea and vomiting and diaphoresis at 15:30 while in 
a
hyperbaric chamber. GCS was 14 for slight confusion in OSH ED at
15:50. He was hypertensive to 250s/110s, and imaging revealed
diffuse SAH. He was intubated given expected course. Received 20
of labetalol, 12 of morphine, 8 of Zofran and he was started on
propofol drip. He was transferred to ___ for further
evaluation.  

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Type II Diabetes Mellitus
- Hypertension  
- Dyslipidemia  

2. CARDIAC HISTORY  
- Coronaries: Status post CABG Ã_x0083_Æ'-5 vessel
  a. LIMA>LAD
  b. SVG>Diag.>OM
  c. SVG>PLB>PDA
- Pump: EF 37%   
- Rhythm: NSR 

3. OTHER PAST MEDICAL HISTORY  
- Peripheral arterial disease
- GERD
- Hypothyroidism
- Vertigo
- CVA
 
Social History:
___
Family History:
His father died at the age ___ with complication of pneumonia. 
His mother died at the age of ___ from complications of diabetes. 

He has a brother who died of lung cancer and another brother who 
died of a heart attack however at age ___. 
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
O: T:97.1  BP: 145/80     HR:70    R: 16       O2Sats:100%

Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: ___ and sluggish  EOMs unable to assess
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.

Date and Time of evaluation:

___ Coma Scale:
  [x]Intubated   [ ]Not intubated

Eye Opening: 
 [x]2 Opens eyes to painful stimuli

Verbal:
 [x]1 Makes no sounds

Motor:
 ___ Flexion/ withdrawal to painful stimuli 

 7T Total

ICH Score:

GCS
     [x]1     GCS ___
     
ICH Volume 
     [x]0     Less than 30 mL

Intraventricular Hemorrhage
     [x]1     Present

Infratentorial ICH
     ___     Yes

Age
     [x]1     ___ years old or greater

Total Score: 4

Neuro:
Mental status: Intubated.  Opens eyes to noxious.  No commands.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2.5
mm bilaterally. Visual fields no assessed
III-XII: not tested due to mental status/intubation

Motor: Withdraws weakly x 4.

CT/CTA:
NONCONTRAST HEAD CT:
Comparison is made to same day outside reference CT head.
Redemonstration of
subarachnoid hemorrhage around the third ventricle, with
extension into the
body of the right lateral ventricle, and posterior horns of the
bilateral
lateral ventricles.

PHYSICAL EXAMINATION ON DISCHARGE:
He was made comfort measures only and expired on ___
 
Pertinent Results:
Please see OMR for pertinent lab and imaging results. 
 
Brief Hospital Course:
#IVH 
The patient was admitted to the Neuro ICU from the ED on ___. 
A right frontal EVD was placed and set to 15cm above the tragus. 
He was started on Nimodipine for a 21-day course. The patient 
was extubated on ___. The EVD was titrated down on ___ to 
prevent leakage from the EVD exit site. The patient underwent a 
CTA on ___ which was negative for vasospasm. The EVD continued 
to be titrated given neurologic examination status. The patient 
was placed on continuous EEG monitoring throughout this 
hospitalization which was negative for seizure activity. EEG 
worsened on ___, suggesting vasospasm; later in his hospital 
course EEG was consistent with encephalopathy. EG was removed on 
___. CTA was performed and the patient was noted to have 
allergic reaction to contrast. MRI was obtained on ___ and MRA 
on ___ which was similar to prior.  CTA was again obtained 
___. Diagnostic angiogram was deferred due to patient's 
critical illness. MRI was performed ___. Sedation was held on 
___ and the patient was placed back on EEG. The EVD remained at 
0, draining serous sangunious fluid. The EVD was removed on ___ 
when he was made comfort measures only. 

#Cardiac: HTN, hypotension, bradycardia, ST Elevation
Medications were titrated for management of hypertension. On 
___, the patient was tachycardic to the 110s and ST elevations 
were noted on EKG. Cardiac enzymes were sent. Metoprolol was 
increased. A repeat EKG was performed on ___ and reviewed by 
the Cardiology consult service without any change to plan.
He again had ST elevations with trops elevated to 1.79; 
cardiology was consulted who felt EKG was similar to prior. 
Bradycardia was discussed with cardiology as well and medication 
was adjusted. He was intermittently treated with levophed for 
bradycardia.
Cardiology was consulted on ___ and recommended starting 
aspirin 81mg daily. 

#Respiratory failure/Pneumonia
The patient remained intubated during his ICU stay.  Sedation 
wean was attempted but he remained on propofol due to tachypnea 
and alkalosis.  his respiratory status stabilized during his ICU 
stay. ACS was consulted for trach on ___.

On ___, the CXR was noted to have bilateral opacities. The 
patient also desaturated to the ___ in the morning. On ___, he 
was empirically started on Vancomycin and Ceftriaxone for 
treatment of pneumonia.

#Diabetes
The patient was evaluated by the ___ Diabetes team for 
optimal management of glucose. He received dextrose for 
hypoglycemia. 

#Nutrition
ACS was consulted for PEG on ___.

#Fever/Leukocytosis
The patient developed fever and leukocytosis during his ICU stay 
and was pancultured. He was started on vancomycin and cefepime 
for presumed pneumonia. Vancomycin was discontinued when swab 
negative for MRSA. On___, blood cultures grew GPC's. 

#Anemia
Iron studies, haptoglobin and retic count were obtained due to 
anemia.

#Disposition
On ___ the ICU team met with the patient's wife, who decided to 
make the patient DNR.  Trach/PEG were deferred pending further 
conversation regarding goals of care. On ___, he was made 
comfort measures only and was terminally extubated. He expired 
on ___.

AHA/ASA Core Measures for SAH/ ICH:

1. Dysphagia screening before any PO intake? []Yes []No

2. DVT prophylaxis administered? [x]Yes []No

3. Smoking cessation counseling given? []Yes [x]No [Reason: 
(x)non-smoker  ()unable to participate]

4. Stroke Education given in written form? []Yes []No

5. Assessment for rehabilitation and/or rehab services 
considered? [x]Yes []No

 

Stroke Measures:

1.     Was ___ performed within 6hrs of arrival? [x]Yes 
[]No

2.     Was a Procoagulant Reversal agent given? [x]Yes []No  
[Reason:] ASA/Plavix

3.     Was Nimodipine given? [x]Yes []No [Reason:] ___
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
3. Cyanocobalamin 1000 mcg IM/SC EVERY OTEHR ___ 
4. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
5. Isosorbide Mononitrate (Extended Release) 120 mg PO QHS 
6. Meclizine 25 mg PO Q8H:PRN vertigo 
7. Gabapentin 300 mg PO TID 
8. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
9. MetFORMIN XR (Glucophage XR) 750 mg PO BID 
10. Aspirin 81 mg PO DAILY 
11. Pantoprazole 40 mg PO Q24H 
12. Metoprolol Succinate XL 25 mg PO DAILY 
13. Fludrocortisone Acetate 0.1 mg PO DAILY 
14. Glargine 18 Units Bedtime
novolog Unknown Dose
15. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
16. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
Expired 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Subarachnoid Hemorrhage

 
Discharge Condition:
 expired

 
Discharge Instructions:
Expired 
 
Followup Instructions:
___